US07253281B2
f) (4R,10aR)-9-Chloro-6-fluoro-4-methyl-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole hydrochloride
(R)-9-Chloro-6-fluoro-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one 4.7 mmol) was dissolved in methanol and magnesium (0.69 g, 28.5 mmol) was added with stirring. Stirring was continued for 3 h at room temperature, the mixture was poured onto ice water and hydrochloric acid (1 N, 23 mL) was added. The pH was adjusted to neutral with potassium phosphate buffer (1 M, pH 6.85) and the mixture was extracted with ethyl acetate. Organic phase were pooled, washed with brine, dried with MgSO4 and the solvent was removed in vacuo to yield a mixture of (4R,10aR)- and (4R,10aS)-9-chloro-6-fluoro-4-methyl-3,4,10,10a-tetrahydro-2H-pyrazino[1,2-a]indol-1-one. Without further purification this mixture (1.2 g) was dissolved in diethylether (50 mL), lithium aluminium hydride (460 mg, 12.0 mmol) was added and the mixture was heated to reflux for 4 h. The solution was cooled and hydrolyzed by sequential addition of water (6.0 mL), sodium hydroxide solution (15%, 12.0 mL) and water (12.0 mL). Diethylether was added (300 mL), the mixture was filtered and the filtrate was evaporated after drying with MgSO4. Chromatography on silica gel (dichloromethane/methanol 97:3) separated the title compound (0.23 g; 20%) from the isomeric (4R,10aS)-9-chloro-6-fluoro-4-methyl-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole. The title compound was characterized as its HCl salt which precipitated from diethylether, ISP-MS: m/e=241.3 (M+H+) and αD20=−18.4.

reactant | (R)-9-Chloro-6-fluoro-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 4.7 mmol | ClC=1C=2C=C3N(C2C(=CC1)F)[C@@H](CNC3=O)C | C12H10ClFN2O
reactant | magnesium | 28.5 mmol, 0.69 g | [Mg] | Mg
reactant | hydrochloric acid | 1 N, 23 mL | Cl | ClH
reactant | potassium phosphate | 1 M, pH 6.85 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | lithium aluminium hydride | 12.0 mmol, 460 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 12.0 mL | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | Diethylether | C(C)OCC | C4H10O
solvent | water | 12.0 mL | O | H2O
solvent | water | 6.0 mL | O | H2O
product | (4R,10aR)-9-Chloro-6-fluoro-4-methyl-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole hydrochloride | Cl.ClC=1C=2C[C@H]3N(C2C(=CC1)F)[C@@H](CNC3)C | InChI=1S/C12H14ClFN2.ClH/c1-7-5-15-6-8-4-9-10(13)2-3-11(14)12(9)16(7)8;/h2-3,7-8,15H,4-6H2,1H3;1H/t7-,8-;/m1./s1
